USRE029358
Preparation of 1,5-Bis(p-chlorophenyl)- 1,4-pentadien-3-one 2-imidazolin-2-ylhydrazone hydrochloride
A mixture consisting of 6 grams of 1,5-bis(p-chlorophenyl)- 1,4-pentadien-3-one, 3.6 grams of 2-imidazolin-2-ylhydrazine hydrobromide, 10 drops of 48 percent aqueous hydrobromic acid and 80 ml. of n-propanol is stirred and heated at reflux for two hours. The reaction mixture is then concentrated to about one-half its volume and cooled at -10° C. The yellow crystalline precipitate is collected, washed with ether, and then added to a slight excess of aqueous 2N sodium hydroxide. The resultant free base is collected, dried, dissolved in ether and treated with a slight excess of 7.2 N n-propanolic hydrogen⟦,⟧ chloride, yielding the title compound melting at 239°-240° C. If the original hydrobromide salt is recrystallized from methanol, a product containing one mole of methanol of crystallization is obtained, melting at 206.5°-208.5° C.

reactant | 1,5-bis(p-chlorophenyl)- 1,4-pentadien-3-one | 6 grams | ClC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)Cl)=O | C17H12Cl2O
reactant | 2-imidazolin-2-ylhydrazine hydrobromide | 3.6 grams | Br.N1C(=NCC1)NN
catalyst | hydrobromic acid | 10 drops | Br | BrH
solvent | n-propanol | C(CC)O | C3H8O
product | 1,5-Bis(p-chlorophenyl)- 1,4-pentadien-3-one 2-imidazolin-2-ylhydrazone hydrochloride | Cl.N1C(=NCC1)NN=C(C=CC1=CC=C(C=C1)Cl)C=CC1=CC=C(C=C1)Cl | InChI=1S/C20H18Cl2N4.ClH/c21-17-7-1-15(2-8-17)5-11-19(25-26-20-23-13-14-24-20)12-6-16-3-9-18(22)10-4-16;/h1-12H,13-14H2,(H2,23,24,26);1H
